US07294644B2
Cyclopropylmethyl-5-(2-fluoro-3-trifluoromethyl-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2-fluoro-3-trifluoromethyl-phenyl)-ethanone as compound of formula S, cyclopropanemethylamine as R3—(CH2)m—NH2 and 1-piperidinamine as R1R2NH, MS (ISP) 424.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2-fluoro-3-trifluoromethyl-phenyl)-ethanone | BrCC(=O)C1=C(C(=CC=C1)C(F)(F)F)F | C9H5BrF4O
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | Cyclopropylmethyl-5-(2-fluoro-3-trifluoromethyl-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C(=CC=C1)C(F)(F)F)F)CC1CC1)C | C22H25F4N3O
